US04465850
Step A: (+) 6,7-Dichloro-2-cyclopentyl-2,3-dihydro-5-hydroxy-2-methyl-1H-inden-1-one
A 19.5 g. sample of (+) [(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)-oxy]acetic acid is added to stirred molten (190° C.) pyridine hydrochloride, stirred for 1 hour then poured into ice water (800 ml). The (+)6,7-dichloro-2-cyclopentyl-2,3-dihydro--5-hydroxy-2-methyl-1H-inden-1-one, which separates is filtered, rinsed with water and dried.

reactant | (+) [(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)-oxy]acetic acid | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OCC(=O)O | C17H18Cl2O4
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | (+) 6,7-Dichloro-2-cyclopentyl-2,3-dihydro-5-hydroxy-2-methyl-1H-inden-1-one | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)O | C15H16Cl2O2
